US08486967B2
d) 2-[2-Chloro-6-(4-chloro-benzyl)-pyrimidin-4-yl]-propan-2-ol
A solution of 2-chloro-4-(4-chloro-benzyl)-6-(1-methyl-1-trimethylsilanyloxy-ethyl)-pyrimidine (3.69 g, 10.0 mmol) and toluene-4-sulfonic acid monohydrate (0.19 g, 1.0 mmol) in 90% aqueous tetrahydrofuran (40 mL) was stirred at 20° C. for 2 h. The solution was diluted with ethyl acetate and washed successively with saturated sodium hydrogencarbonate solution and with brine. The organic layer was dried over sodium sulfate and evaporated under reduced pressure. The residual oil was crystallized from cyclohexane to give the title compound (2.28 g, 77%) as a white solid.

reactant | 2-chloro-4-(4-chloro-benzyl)-6-(1-methyl-1-trimethylsilanyloxy-ethyl)-pyrimidine | 10.0 mmol, 3.69 g | ClC1=NC(=CC(=N1)CC1=CC=C(C=C1)Cl)C(C)(O[Si](C)(C)C)C | C17H22Cl2N2OSi
reactant | toluene-4-sulfonic acid monohydrate | 1.0 mmol, 0.19 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[2-Chloro-6-(4-chloro-benzyl)-pyrimidin-4-yl]-propan-2-ol | 2.28 g, 77% | ClC1=NC(=CC(=N1)C(C)(C)O)CC1=CC=C(C=C1)Cl | C14H14Cl2N2O
